US05053409
Synthesis of 2-amino-5-n-propylbenzenesulfonic acid
A solution of 31.4 g of p-n-propylaniline dissolved in 116 ml of acetic acid and 232 ml of water was added dropwise into 200 ml of a mixed solution comprising 130 g of sodium isocyanate and 900 ml of water, and then stirred in an ice-bath for 30 minutes. The crystals precipitated were filtered, washed with water and dried to give 38.88 g of 4-n-propylphenylurea. After the 4-n-propylphenylurea was added in portions into 107.6 ml of 20% fuming sulfuric acid, the reaction was carried out at 60° C. for 2 hours. Under cooling in an ice-bath, about 400 ml of ice was added into the reaction mixture, followed by heating under reflux for 4 hours. The crystals precipitated by cooling were filtered, washed with water and then dried to give 30.09 g of the above title product (yield: 64.1%). Melting point: 30 261.7°-262.3° C.

reactant | 4-n-propylphenylurea | C(CC)C1=CC=C(C=C1)NC(=O)N | C10H14N2O
reactant | sulfuric acid | 107.6 ml | S(O)(O)(=O)=O | H2O4S
product | 2-amino-5-n-propylbenzenesulfonic acid | 30.09 g, yield: 64.1% | NC1=C(C=C(C=C1)CCC)S(=O)(=O)O | C9H13NO3S
